Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seeking dual diagnosis treatment
coffee ground emesis
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
With some details from the Merit Note:
___ yo woman with bipolar disorder, alcohol use disorder with
multiple episodes of withdrawal in the past (denies seizure or
intubation) who presented to OSH requesting detox course and had
coffee ground emesis while in obs; CT imaging was concerning for
possible esophageal perforation and transferred here for
evaluation.

 She initially presented to ___ and there requested
detox. She states she has been sober on and off but mostly
drinking for the last month except for a few days. She had been
drinking ___ nips a day. She lives with boyfriend who also has
alcohol use disorder. Recently she felt suicidal in the setting
of drinking and on ___ she went to ___ and was admitted to ED
obs unit and treated with Librium for alcohol withdrawal. 

 At ___ today she began to have N/V with coffee ground
emesis prompting them to obtain a CT scan that was read as 
having
fluid in the hiatal hernia sac.

 Because of the fluid seen in the hernia there was some concern
for possible esophageal perforation and she was transferred to
___. She was empirically started on abx for presumed
perforation (zosyn and vancomycin). She was seen by the thoracic
surgery team who recommended barium swallow which was negative
for any tear. She was noted to have melena and GI was consulted.

In the ED:

Initial vital signs were notable for:
T98.5, HR93, 126/90, 14, 96% RA

Exam notable for:
anxious and mildly tremulous 

Labs were notable for: 
Neg Trop
Hgb stable 11.6-->12.1
WBC 13.4 --> 11.4
INR 1.2
Alb 3.0
LFT WNL
Bicarb 18, AGap 19
Urine Benzo +, Utox otherwise negative
UA + 16 WBC, Few bacteria, 6 RBC

Studies performed include:
Barium Swallow/Esophagus: No evidence of leak. Moderate-sized
hiatal hernia with significant reflux up to the cervical
esophagus.
CXR: OSH
CT A/P w/contrast: "LARGE HIATAL HERNIA WITH SOME FLUID IN THE
HERNIA SAC. CLINICAL CORRELATION NEEDED. UPPER GI SERIES OR EGD
MAY BE HELPFUL FOR FURTHER EVALUATION.NO ACUTE ABDOMINAL OR
PELVIC PROCESS NOTED ELSEWHERE."
 
Patient was given:
Vanc/Zosyn for presumed perf
CIWA protocol
IV PPI, IVF
MVI, thiamine 100, Folic Acid
Ativan 2 mg 

Consults: social work, GI (melena), thoracic surg (no acute
intervention given no leak)

Vitals on transfer: T98.5, 146/92, 98, 18, 97% RA

Upon arrival to the floor, patient endorsed feeling very 
anxious,
similar to how she felt when she was withdrawing in the past.
Endorses restless leg which she says worsens when she has
anxiety. She had a BM on the floor that was light brown. Denies
N/V/chest pain/abd pain/lightheaded/dizziness. Denies SI/HI.
 
Past Medical History:
Per OMR:
bipolar disorder 
alcohol use disorder with multiple episodes of withdrawal in the
past (denies seizure or intubation) 
GERD
Tummy tuck  
Breast lift  
No abdominal or neck surgery otherwise 
 
Social History:
___
Family History:
Mother- unspecified cardiac hx
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: T98.5, 146/92, 98, 18, 97% RA
GENERAL: Alert and interactive. Very anxious/tremulous.
HEENT: NCAT. EOMI. Sclera anicteric and without injection. Dry
membranes.
NECK: No gross abnormalities.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: Normal sensation. Gait is normal. AOx3.

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 1117)
Temp: 98.4 (Tm 98.7), BP: 134/92 (130-151/84-105), HR: 86
(86-103), RR: 20 (___), O2 sat: 95% (95-98), O2 delivery: RA   

GENERAL: Woman lying in bed on her stomach, no apparent 
distress.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, soft, non distended, non-tender 
EXTREMITIES: No clubbing, cyanosis, or edema.
NEURO: Alert, oriented to person/place/time/situation. Moving 
all
extremities without limitation. No tremors, astrixis. 
 
Pertinent Results:
___ 05:50AM   GLUCOSE-88 UREA N-11 CREAT-0.6 SODIUM-139 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-18* ANION GAP-19*
___ 05:50AM   ALT(SGPT)-19 AST(SGOT)-29 ALK PHOS-91 TOT 
BILI-0.6
___ 05:50AM   ALBUMIN-3.0*
___ 05:50AM   WBC-13.4* RBC-4.12 HGB-11.6 HCT-34.8 MCV-85 
MCH-28.2 MCHC-33.3 RDW-14.9 RDWSD-45.3
___ 05:50AM   PLT COUNT-223
___ 05:50AM   ___ PTT-25.1 ___
___ 12:23PM   WBC-11.4* RBC-4.28 HGB-12.1 HCT-35.4 MCV-83 
MCH-28.3 MCHC-34.2 RDW-14.8 RDWSD-43.8
___ 12:23PM   PLT COUNT-210

 Barium esophagram ___:
 FINDINGS: 
No evidence of leak.  The esophagus was not dilated.  There was 
no stricture
within the esophagus. There was no esophageal mass.
 
The primary peristaltic wave was normal, with contrast passing 
readily into
the stomach. The lower esophageal sphincter opened and closed 
normally.
 
There is a moderate sized hiatal hernia, exacerbated by supine 
positioning, as
seen on the CT with the same date.  When the patient was placed 
supine, a
large volume of reflux was noted extending to the cervical 
esophagus.
 
No overt abnormality in the stomach or duodenum on limited 
evaluation.
IMPRESSION:
1. No evidence of leak.
2. Moderate-sized hiatal hernia with significant reflux up to 
the cervical
esophagus.

EGD ___
Normal stomach.
Esophageal hiatal hernia.
Grade D esophagitis in the distal esophagus.
 
Brief Hospital Course:
SUMMARY STATEMENT
Ms. ___ is a ___ year-old woman with past medical history of 
alcohol use disorder (hx withdrawal symptoms, no history of 
seizures or intubation) and bipolar disorder, who presented to 
OSH for detox and developed coffee ground emesis. Ultimately 
found to have severe esophagitis. 

ACUTE ISSUES
#Upper GI bleed- There was initial concern for esophageal 
perforation at the OSH. No leak was found on barium swallow, 
though the patient did have melena in the ED. The patient was 
seen by GI, started on a PPI and underwent EGD that showed grade 
D esophagitis with no evidence of ___ tear or other 
pathology. It was recommended that she continue on a PPI BID for 
8 weeks, followed by repeat EGD. She had no further episodes of 
hematemesis or melena while in-house.

#ETOH Abuse
#EtOH withdrawal
Complicated history of alcohol abuse with periods of sobriety 
and
with prior withdrawals, but no seizures/intubations. She 
presented to an OSH for detox. Last drink ___ AM. The patient 
was placed on CIWA protocol and scored low throughout her time, 
requiring minimal benzodiazepines. Social work was consulted and 
a plan was set up for the patient to go to her parents and 
present to outpatient treatment on ___.

#Anxiety
#Bipolar disorder- The patient endorsed depression for past 
month, as well as possible passive suicidal ideation without a 
plan. The patient was seen by psychiatry and social work. 
Ultimately, it was felt that the patient was not eligible for 
inpatient detox at this time. She was continued on her home 
psychiatric medication regimen. 

#Leukocytosis- Resolved. Likely elevated ISO recent 
N/V/hematemesis. Down trending and afebrile with no localizing 
symptoms.

#Code Status- Patient stated she would want to be DNR/DNI, but 
also
endorsed being currently depressed for the past month iso h/o
bipolar disorder. Kept as full code in-house.

CHRONIC ISSUES
None

TRANSITIONAL ISSUES
[ ] should be continued on PPI BID for a total of 8 week (last 
day ___ should then switch to daily PPI indefinitely
[ ] PCP should coordinate with gastroenterologist to set up 
outpatient EGD in 8 weeks
[ ] plan is for patient to stay with parents until ___ when she 
will present for outpatient alcohol use disorder treatment
[ ] patient must refrain from all alcohol use indefinitely
[ ] endorsed passive SI in-house, seen by psychiatry; is 
continuing outpatient therapy and psychiatric care
[ ] Discharge Hgb: 11.0

#CODE: FULL CODE (presumed) (stated DNR/DNI, but acutely 
depressed)
#CONTACT: ___ (Mother) ___

Ms. ___ is clinically stable for discharge today. The total 
time spent today on discharge planning, counseling and 
coordination of care today was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BusPIRone 10 mg PO TID 
2. PARoxetine 40 mg PO DAILY 
3. OXcarbazepine 900 mg PO DAILY 
4. Ranitidine 75 mg PO DAILY 
5. OLANZapine 15 mg PO QHS 
6. HydrOXYzine 50 mg PO DAILY:PRN anxiety 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth two times per day 
Disp #*60 Tablet Refills:*0 
3.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
4.  BusPIRone 10 mg PO TID  
5.  HydrOXYzine 50 mg PO DAILY:PRN anxiety  
6.  OLANZapine 15 mg PO QHS  
7.  OXcarbazepine 900 mg PO DAILY  
8.  PARoxetine 40 mg PO DAILY  
9.  Ranitidine 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Severe esophagitis
Alcohol use disorder

Secondary:
Bipolar disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

Why was I admitted to the hospital?
- You were interested in going to alcohol detox
- You had an episode of bloody vomit and black stool that was 
concerning for a bleed in your GI tract

What was done while I was in the hospital?
- You were seen by our gastroenterologists; you had an endoscopy 
that showed inflammation and bleeding in your esophagus that is 
likely related to alcohol and vomiting
- You were monitored for signs of alcohol withdrawal and 
otherwise remained stable
- You were seen by our social worker and psychiatrist who felt 
that outpatient treatment of your alcohol use disorder would be 
best

What should I do when I get home from the hospital?
- Continue to take your acid suppressing medication two times 
per day for the next 8 weeks
- You will need a follow-up endoscopy in 8 weeks to make sure 
that the inflammation in your esophagus has improved
- You MUST REFRAIN FROM ALL ALCOHOL as this can cause worsening 
of your esophageal inflammation
- If you have fevers, chills, notice blood in your vomit or 
stool, or generally feel unwell, please call your doctor or go 
to the emergency room

Sincerely,
Your ___ Treatment Team
 
Followup Instructions:
___